Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
Behavior changes 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ G1P1 PPD ___ s/p SVD, brought to the ED by her husband
for ___ ideation, found to have elevated BPs. 

Patient has long history of bipolar disorder with multiple
hospitalizations. She has been on lamictal and wellbutrin since
the pregnancy. She reports being relatively stable during the
pregnancy. Recently her husband has noted multiple unusual
behaviors that are concerning for postpartum psychosis/mania. Pt
vehemently denies thoughts of harming self or infant.

She currently reports having a headache. She also says that 
since
the delivery she has occasionally had sparklers in her vision.
She denies CP or SOB. Denies RUQ pain. Denies swelling. Has been
both breast and bottle feeding. VB has been appropriate.  She is
taking placenta capsules. 

 
Past Medical History:
POBHx: G1P1 SVD ___
PGynHx: h/o LEEP and geintal HSV with remote outbreak x1, 
lesions
cultured & dx confirmed
PMHx: bipolar, has been hospitalized for this
PSHx: shoulder surgery, LEEP

 
Social History:
Social Hx: married, denies t/e/d

 
Physical Exam:
On admission to the ED: T 98.6 HR 120  BP 170/89 RR 16 O2 100% 
2201 BP: 145/104
Appears disheveled with oily hair, naked under sheets in bed in
ED. Speaking quickly moving from one topic to next.
Heart RRR not tachy on my exam
Lungs CTAB
Abdomen soft, nontender, nondistended +BS, fundus below
umbilicus, firm.
___, DTRs 3+, no clonus.

 
Pertinent Results:
LABS:
___ 10:48AM BLOOD WBC-7.8 RBC-4.16* Hgb-13.3 Hct-40.5 
MCV-97 MCH-32.0 MCHC-32.8 RDW-13.4 Plt ___
___ 08:57PM BLOOD WBC-12.1* RBC-3.83* Hgb-12.4 Hct-37.2 
MCV-97 MCH-32.2* MCHC-33.3 RDW-13.2 Plt ___
___ 10:48AM BLOOD Plt ___
___ 08:57PM BLOOD Plt ___
___ 10:48AM BLOOD Creat-0.8
___ 08:57PM BLOOD Glucose-109* UreaN-15 Creat-0.7 Na-139 
K-4.5 Cl-101 HCO3-27 AnGap-16
___ 10:48AM BLOOD ALT-92* AST-41*
___ 08:57PM BLOOD ALT-98* AST-48* TotBili-0.3
___ 08:57PM BLOOD Albumin-4.0 UricAcd-6.0*
___ 10:48AM BLOOD UricAcd-5.4
___ 08:57PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ was transferred from the Emergency Department to 
Labor and Delivery for treatment of preeclampsia. She was 
started on IV magnesium (4gm bolus followed by 2gm/hr infusion). 
She was closeley monitored on Labor and Delivery and was 
transferred to the postpartum service after 12 hours. She 
received a total of 24 hours of Magnesium. Her blood pressures 
remained well controlled 130-150s/80s without any 
antihypertensives. Psychiatry was consulted in the Emergency 
Department regarding her diagnosis of postpartum psychosis. In 
addition to resuming her home dose of lamictal and wellbutrin, 
she received additional doses of Zyprexa prn agitation which 
helped improve the patient's mood related symptoms. On hospital 
day 3, Ms. ___ was medically cleared and stable for 
discharge. 

Addendum:  Transfer to inpatient psychiatric unit recommended by 
psychiatry team.  This was discussed with patient and husband.  
After initial resistance, patient agrees.  Arrangements made to 
transfer patient to ___ inpatient unit for management of 
manic episode.
 
Medications on Admission:
lamictal 100 QD, wellbutrin 150 QD

 
Discharge Medications:
Lamictal 100 daily, Wellbutrin 150 daily, Zyprexa 5mg BID prn 
agitation
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Preeclampsia, Postpartum psychosis 
 
Discharge Condition:
Stable 
 
Discharge Instructions:
___ call M.D. if you have any of the following symptoms:
Severe headache
Abdominal pain
Vision changes
Increased swelling
 
Followup Instructions:
___